US04021539
N-dodecyl-glucamine
The product was made from D-glucose and dodecylamine comparable as in Example A.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | dodecylamine | C(CCCCCCCCCCC)N | C12H27N
product | N-dodecyl-glucamine | C(CCCCCCCCCCC)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C18H39NO5
